US07491716B2
(2,3-Dihydrobenzo[1,4]dioxin-5-yl)acetonitrile
Add (2,3-Dihydrobenzo[1,4]dioxin-5-yl)chloromethane (1.9 g, 10.2 mmol) and sodium cyanide (655 mgs, 13.3 mmol) to dimethylsulfoxide (20 mL). Stir under nitrogen at 65° C. for 18 hours. Dilute the reaction with ethyl acetate, wash with 0.1 molar aqueous sodium carbonate and aqueous saturated sodium chloride. Dry the organic phase over anhydrous magnesium sulfate, filter and concentrate under reduced pressure. Chromatograph on flash silica using a gradient from neat hexane to 50% ethyl acetate in hexane to obtain 1.23 g (68%) of the desired compound as a white solid.

reactant | (2,3-Dihydrobenzo[1,4]dioxin-5-yl)chloromethane | 10.2 mmol, 1.9 g | O1CCOC2=C1C=CC=C2CCl | C9H9ClO2
reactant | sodium cyanide | 13.3 mmol, 655 mgs | [C-]#N.[Na+]
reactant | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2,3-Dihydrobenzo[1,4]dioxin-5-yl)acetonitrile | 1.23 g, 68% | O1CCOC2=C1C=CC=C2CC#N | C10H9NO2
